US06562828B1
8-Hydroxy-2,3,4,5-tetrahydro-1H-benz[c]azepine Hydrobromide
8-Methoxy-2,3,4,5-tetrahydro-1H-benz[c]azepine (3.65 g) was dissolved in 48% aqueous hydrogen bromide solution (36 ml) and the mixture was refluxed for 2 hours. The solvent was evaporated and ethanol and diethyl ether were added to the obtained residue. The mixture was filtrated and dried under reduced pressure to give the title compound (4.56 g).

reactant | 8-Methoxy-2,3,4,5-tetrahydro-1H-benz[c]azepine | 3.65 g | COC=1C=CC2=C(CNCCC2)C1 | C11H15NO
reactant | hydrogen bromide | 36 ml | Br | BrH
product | 8-Hydroxy-2,3,4,5-tetrahydro-1H-benz[c]azepine Hydrobromide | 4.56 g | Br.OC=1C=CC2=C(CNCCC2)C1 | InChI=1S/C10H13NO.BrH/c12-10-4-3-8-2-1-5-11-7-9(8)6-10;/h3-4,6,11-12H,1-2,5,7H2;1H
